US06462032B1
5-bromo-3-methyl-indol-2-one
5-Bromo-3-methyl-1,3-dihydro-indol-2-one (0.50 g, 2.22 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.15 g) were stirred under an atmosphere of nitrogen in dimethoxyethane (18 cm3). After 15 min., 3-nitrophenyl boronic acid (0.74 g, 4.45 mmol) was added, followed by potassium carbonate (1.86 g, 13.5 mmol) in water (7 cm3). The reaction was heated to reflux for 8 h and then stirred at room temperature overnight. Saturated ammonium chloride was added; and the aqueous layer was extracted with EtOAc (×3). The combined organic layers were dried (MgSO4), filtered, and evaporated. The residue was purified by column chromatography (SiO2, EtOAc: hexane 1:2), eluted: 2:1 hexane; ethyl acetate, to give the title compound (0.30 g, 47%), mp 200-203° C.; 1H NMR (DMSO-d6) δ 1.41 (d, 3 H, J=7.61 Hz), 3.50 (q, 1H, J=7.60 Hz), 6.96 (d, 1H, J=8.08 Hz), 7.62 (d, 1H, J=8.06 Hz), 7.75-7.70 (m, 2H), 8.18-8.10 (m, 2H), 8.41-8.39 (m, 1H), 10.5 (s, 1H); IR (KBr) 3450, 1700 cm−1; MS (EI) m/z 267 (M−H); CHN calculated for C15H12N2O3+0.2C4H8O2: C, 66.61; H, 4.46; N, 9.83; Found: C, 66.26; H, 4.59; N, 10.06.

reactant | 5-Bromo-3-methyl-1,3-dihydro-indol-2-one | 2.22 mmol, 0.50 g | BrC=1C=C2C(C(NC2=CC1)=O)C | C9H8BrNO
reactant | 3-nitrophenyl boronic acid | 4.45 mmol, 0.74 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | potassium carbonate | 13.5 mmol, 1.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethoxyethane | 18 cm3 | C(OC)COC | C4H10O2
solvent | water | 7 cm3 | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-bromo-3-methyl-indol-2-one | 0.30 g, 47% | BrC1=CC2=C(C(N=C2C=C1)=O)C | C9H6BrNO
